US04144341
3-Amino-2-(2-fluoroanilino)pyridine hydrochloride (3 g.) is dissolved in 25 ml. of 2.5 N hydrochloric acid and treated with 2 ml. of thiophosgene. After stirring 3 hours the mixture is clarified by filtration, and the filtrate is neutralized with ammonium hydroxide. The product separates and is recrystallized from methanol to give 1,3-dihydro-3-(2-fluorophenyl)imidazo[4,5-b]pyridin-2-thione.

reactant | 3-Amino-2-(2-fluoroanilino)pyridine hydrochloride | 3 g | Cl.NC=1C(=NC=CC1)NC1=C(C=CC=C1)F
reactant | hydrochloric acid | 2.5 N | Cl | ClH
reactant | thiophosgene | C(=S)(Cl)Cl | CCl2S
product | 1,3-dihydro-3-(2-fluorophenyl)imidazo[4,5-b]pyridin-2-thione | FC1=C(C=CC=C1)N1C(NC=2C1=NC=CC2)=S | C12H8FN3S
